US04628057
(3RS)-2-[(2-Thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as descsribed in Example 32, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (4.32 g), 20N NaOH (2.2 ml), carbon disulfide (1.45 ml), dimethylsulfoxide (13 ml) and 2-thenyl chloride (3.18 g) are reacted and treated. The product is crystallized from ethanol to give the title compound (4.1 g) as pale yellow crystals, m.p. 172° C. (decomp.).

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.32 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 20N, 2.2 ml | [OH-].[Na+]
reactant | carbon disulfide | 1.45 ml | C(=S)=S | CS2
reactant | 2-thenyl chloride | 3.18 g | C1(=CC=CS1)CCl | C5H5ClS
solvent | dimethylsulfoxide | 13 ml | CS(=O)C | C2H6OS
product | (3RS)-2-[(2-Thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.1 g | C1(=CC=CS1)CSC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C18H16N2O2S3
